US04201785
cis-2-Octyl-cyclopropanoctanoic acid, 2-(o-methylphenyl)-hydrazide
To a solution of 3.0 g of dihydrosterculic acid* in 75 ml methylene chloride cooled to -20°, is added dropwise 1.1 g triethyl amine and then dropwise 1.1 g ethyl chloroformate. The reaction mixture is allowed gradually to come to room temperature and stirred for 2 hours. There is then added 1.0 g triethylamine followed by 1.6 g o-methylphenyl hydrazine hydrochloride and the reaction mixture then stirred for 16 hours. Thereafter the reaction mixture is extracted five times with portions of 2 N hydrochloric acid, then once with 2 N aqueous sodium hydroxide and washed extensively with saturated aqueous sodium chloride. The organic phase is then dried over anh. sodium sulphate, filtered and the filtrate evaporated i.v. to dryness to obtain a residue. The residue is then chromatographed over silica gel, with chloroform as the eluent. The desired fractions** are combined and evaporated i.v. to dryness to yield the title product as a waxy solid, NMR; b +0.65(3), b -0.3(1), d 8.0(1), d 6.1(1), s 2.1(3).

reactant | dihydrosterculic acid | 3.0 g | CCCCCCCCC1CC1CCCCCCCC(=O)O | C19H36O2
reactant | triethyl amine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.1 g | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | o-methylphenyl hydrazine hydrochloride | 1.6 g | Cl.CC1=C(C=CC=C1)NN
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | cis-2-Octyl-cyclopropanoctanoic acid, 2-(o-methylphenyl)-hydrazide | CC1=C(C=CC=C1)NNC(CCCCCCC[C@H]1[C@H](C1)CCCCCCCC)=O | C26H44N2O
